US07915424B2
3-Bromo-5-[(trimethylsilanyl)-ethynyl]-pyridine
Add trimethylsilylacetylene (54.6 mL, 389.4 mmol) to a stirred mixture of 3-bromo-5-iodopyridine (100 g, 354 mmol) in triethylamine (800 mL) and acetonitrile (800 mL). Purge the system with nitrogen and add bis(triphenylphosphine)palladium(II) dichloride (3.54 mmol, 2.48 g) and stir for 16 h. Concentrate and suspend the residue in 1800 mL of hexanes. Stir for 2 h, filter and concentrate to give the title compound as a brown solid (92g, 99%).

reactant | trimethylsilylacetylene | 389.4 mmol, 54.6 mL | C[Si](C)(C)C#C | C5H10Si
reactant | 3-bromo-5-iodopyridine | 354 mmol, 100 g | BrC=1C=NC=C(C1)I | C5H3BrIN
solvent | triethylamine | 800 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 800 mL | C(C)#N | C2H3N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 3.54 mmol, 2.48 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-Bromo-5-[(trimethylsilanyl)-ethynyl]-pyridine | 99% | BrC=1C=NC=C(C1)C#C[Si](C)(C)C | C10H12BrNSi
